US07601711B2
(RS)-3-[2-(4,4-Difluoro-piperidine-1-carbonyl)-5-(3-dimethylamino-pyrrolidine-1-carbonyl)-indol-1-yl]-benzonitrile
The title compound was synthesized in analogy to example 66, from (RS)-(4,4-difluoro-piperidin-1-yl)-[5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-methanone (example 42, intermediate a)), 3-cyanophenylboronic acid, copper(II) acetate and pyridine in dichloromethane, to give the desired product as a colorless foam (40%).

reactant | (RS)-(4,4-difluoro-piperidin-1-yl)-[5-(3-dimethylamino-pyrrolidine-1-carbonyl)-1H-indol-2-yl]-methanone | FC1(CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)C(=O)N1CC(CC1)N(C)C)F | C21H26F2N4O2
reactant | 3-cyanophenylboronic acid | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper(II) acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (RS)-3-[2-(4,4-Difluoro-piperidine-1-carbonyl)-5-(3-dimethylamino-pyrrolidine-1-carbonyl)-indol-1-yl]-benzonitrile | 40% | FC1(CCN(CC1)C(=O)C=1N(C2=CC=C(C=C2C1)C(=O)N1CC(CC1)N(C)C)C=1C=C(C#N)C=CC1)F | C28H29F2N5O2
